US06770643B2
(a) 1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 7-azaindole (25 g), para-toluenesulfonyl chloride (44.5 g) and a catalytic amount of tetrabutylammoniun sulfate in dry toluene (300 mL) was added sodium hydroxide (160 g in 500 mL of water). The biphasic solution was stirred at ambient temperature for 3 hours then extracted twice with toluene (100 mL). The combined extracts were dried over magnesium sulfate then concentrated under vacuo. The resultant solid was triturated with diethyl ether then dried at 60° C. under vacuo to yield the title compound (39.74 g) as a pale yellow solid, m.p. 136-138° C.

reactant | 7-azaindole | 25 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | para-toluenesulfonyl chloride | 44.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | sodium hydroxide | 500 mL, 160 g | [OH-].[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 39.74 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2)C | C14H12N2O2S
